US04824476
10 g of 2-chloro-4-fluorobenzyl cyanide are dissolved at a temperature of -10° C., with stirring, in 85 ml of concentrated sulfuric acid, in the process of which a fine light-brown suspension is formed. There are then slowly added dropwise at -20° C., with stirring, 5 ml of fuming nitric acid. After completion of the addition, stirring is continued for a further half hour, the temperature rising to 0° C. The reaction mixture is poured onto 500 g of ice, and the substance which precipitates is extracted with methylene chloride. The methylene chloride phase is dried over sodium sulfate, and concentrated by evaporation to leave 10.5 g of 2-chloro-4-fluoro-5-nitrobenzyl cyanide in the form of white crystals having a melting point of 67°-68° C.

reactant | 2-chloro-4-fluorobenzyl cyanide | 10 g | ClC1=C(CC#N)C=CC(=C1)F | C8H5ClFN
reactant | nitric acid | 5 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 85 ml | S(O)(O)(=O)=O | H2O4S
product | 2-chloro-4-fluoro-5-nitrobenzyl cyanide | 10.5 g | ClC1=C(CC#N)C=C(C(=C1)F)[N+](=O)[O-] | C8H4ClFN2O2
